* C:\Users\acmc\Google Drive\Educacion\Universidad\FuTFI\spice\P5_aldan_creo\1.asc
VDD DD 0 1
VA A 0 PULSE(1 0 0 0.1p 0.1p 4n 8n 10)
VB B 0 PULSE(1 0 0 0.1p 0.1p 2n 4n 10)
VC C 0 PULSE(1 0 0 0.1p 0.1p 1n 2n 10)
M1 DD A N003 DD PMOS l=50n w=500n
M2 N003 A N005 N003 PMOS l=50n w=500n
M3 N005 B N002 N005 PMOS l=50n w=500n
M4 N003 C N002 N003 PMOS l=50n w=500n
M5 DD B N003 DD PMOS l=50n w=500n
M6 N002 C N007 N007 NMOS l=50n w=1000n
M7 N002 A N008 N008 NMOS l=50n w=1000n
M8 N008 B 0 0 NMOS l=50n w=1000n
M9 N007 A 0 0 NMOS l=50n w=1000n
M10 N007 B 0 0 NMOS l=50n w=1000n
M13 N001 N002 N009 N001 PMOS l=50n w=500n
M14 N009 N002 N010 N010 NMOS l=50n w=1000n
M15 DD A N001 DD PMOS l=50n w=500n
M16 DD B N001 DD PMOS
M17 DD C N001 DD PMOS l=50n w=500n
M18 N001 A N004 N001 PMOS l=50n w=500n
M19 N004 B N006 N004 PMOS l=50n w=500n
M20 N006 C N009 N006 PMOS l=50n w=500n
M23 N010 A 0 0 NMOS l=50n w=1000n
M24 N010 B 0 0 NMOS l=50n w=1000n
M25 N010 C 0 0 NMOS l=50n w=1000n
M26 N009 A N011 N011 NMOS l=50n w=1500n
M27 N011 B N012 N012 NMOS l=50n w=1500n
M28 N012 C 0 0 NMOS l=50n w=1500n
XX1 SUM 0 DD 0 simb_inv
XX2 SUM 0 DD 0 simb_inv
XX3 SUM 0 DD 0 simb_inv
XX4 SUM 0 DD 0 simb_inv
XX5 CARRY 0 DD 0 simb_inv
XX6 CARRY 0 DD 0 simb_inv
XX7 CARRY 0 DD 0 simb_inv
XX8 CARRY 0 DD 0 simb_inv
XX9 N002 CARRY DD 0 simb_inv
XX10 N009 SUM DD 0 simb_inv

* block symbol definitions
.subckt simb_inv IN OUT DD SS
M1 OUT IN SS SS NMOS l=50n w=500n
M2 OUT IN DD DD PMOS l=50n w=1000n
.include modelos.txt
.ends simb_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.include modelos.txt
.tran 0 8n 0 1p
.backanno
.end
